US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5 H)-yl)-6-methylquinolin-4-yl]butane-1,4-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and butane-1,4-diamine. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 8.01-7.95 (m, 1 H), 7.92-7.86 (m, 1 H), 7.83-7.76 (m, 1 H), 7.69-7.61 (m, 1 H), 7.61-7.54 (m, 1 H), 7.50-7.42 (m, 1 H), 7.39-7.31 (m, 1 H), 5.96 (s, 1 H), 5.20 (brs, 2 H), 3.63 (brs, 2 H), 3.47 (brs, 2 H), 3.37 (s, 2 H), 2.42 (s, 3 H), 2.27-2.24 (m, 4 H), 1.86 (d, J=3.28 Hz, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | butane-1,4-diamine | C(CCCN)N | C4H12N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5 H)-yl)-6-methylquinolin-4-yl]butane-1,4-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCCN)C)=O | C23H28N4O2S
